US07655679B2
1.41 g 4-(4-Methoxyphenyl)-1,3-thiazol-2-amine was dissolved in 2 ml dimethylformamide. 3.0 ml N,N-Diisopropylethylamine, 1.0 g commercially available (4-Cyano-phenyl)-acetic acid and 2.25 g O-((Ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate were added. The reaction mixture was stirred at room temperature overnight. Then 200 ml ethyl acetate were added and the mixture was washed three times with portions of 50 ml saturated NaHCO3 solution and then dried over MgSO4. The solvents were removed in vacuo and the residue purified by RP-HPLC to obtain 610 mg 2-(4-Cyano-phenyl)-N-[4-(4-methoxy-phenyl)-thiazol-2-yl]-acetamide as yellow solid.

reactant | 4-(4-Methoxyphenyl)-1,3-thiazol-2-amine | 1.41 g | COC1=CC=C(C=C1)C=1N=C(SC1)N | C10H10N2OS
reactant | N,N-Diisopropylethylamine | 3.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-Cyano-phenyl)-acetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | O-((Ethoxycarbonyl)cyanomethyleneamino)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 2.25 g | F[B-](F)(F)F.C(C)OC(=O)C(C#N)=NOC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-Cyano-phenyl)-N-[4-(4-methoxy-phenyl)-thiazol-2-yl]-acetamide | 610 mg | C(#N)C1=CC=C(C=C1)CC(=O)NC=1SC=C(N1)C1=CC=C(C=C1)OC | C19H15N3O2S
